US05157041
A solution of 249 mg of N-[3(S)-[[L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester, 106 mg of 2-naphthoyl chloride and 72 mg of diisopropylethylamine in 10 ml of dry dichloromethane was stirred at 20° C. for 20 hours. The gelatinous reaction mixture was partitioned between dichloromethane and water. The organic phase was evaporated and the resulting oil was crystallized from ethyl acetate/n-hexane to give 215 mg of N-[2(R)-hydroxy-3(S)-[[N-(2-naphthoyl)-L-asparaginyl]amino]-4-phenylbutyl]-L-proline tert.butyl ester, as a white solid; MS: m/e 603 [M+H]+.

reactant | N-[3(S)-[[L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester | 249 mg | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](N)CC(N)=O)=O)O)=O | C23H36N4O5
reactant | 2-naphthoyl chloride | 106 mg | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | diisopropylethylamine | 72 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[2(R)-hydroxy-3(S)-[[N-(2-naphthoyl)-L-asparaginyl]amino]-4-phenylbutyl]-L-proline tert.butyl ester | 215 mg | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)C1=CC2=CC=CC=C2C=C1)CC(N)=O)=O)O)=O | C34H42N4O6
